US04404203
2,3-Dihydro-3-oxo-6-phenyl-5-pyridazinecarbonitrile (10.0 g) is added to cold (0°-5° C.) concentrated sulfuric acid (50 ml) and the resulting solution is kept at 0°-5° C. for 24 hours and then poured onto crushed ice and the solid product is collected and recrystallized from aqueous ethanol to give 2,3-dihydro-3-oxo-6-phenyl-5-pyridazinecarboxamide.

reactant | 2,3-Dihydro-3-oxo-6-phenyl-5-pyridazinecarbonitrile | 10.0 g | O=C1NN=C(C(=C1)C#N)C1=CC=CC=C1 | C11H7N3O
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydro-3-oxo-6-phenyl-5-pyridazinecarboxamide | O=C1NN=C(C(=C1)C(=O)N)C1=CC=CC=C1 | C11H9N3O2
